US07468375B2
Step 2: 3-[(t-Butoxycarbonyl)amino]-3-cyclopropylpropanoic acid
To a mixture of 3-amino-3-cyclopropylpropanoic acid (146 g, 1.13 mol), water (300 mL), and tetrahydrofuran (1 L) was added an aqueous solution of sodium hydroxide (95 g, 2.37 mol; 200 mL of water) while maintaining the internal temperature below 30° C. A solution of di-t-butyl dicarbonate (271.7 g, 1.24 mol) in tetrahydrofuran (250 mL) was added to the reaction via addition funnel while maintaining the internal temperature below 30° C. with the aid of a water bath. The reaction was stirred at ambient temperature for a period of 17 h, at which point LCMS analysis indicated that the starting material had been consumed. The reaction mixture was quenched by portionwise addition of oxalic acid to a pH of 4 and the precipitated salts removed by filtration. The salts were rinsed with ethyl acetate (slurry-wash: 1×500 mL; displacement wash: 1×500 mL) and the phases were split. The aqueous layer was extracted with ethyl acetate (2×250 mL), the combined organic layers washed with brine (1×400 mL), dried over sodium sulfate, filtered and the majority of the solvent removed to provide a thick slurry. The product slurry was diluted with hexanes (500 mL) and cooled to 0° C. prior to filtration. The cake was washed with cold hexanes (displacement wash: 1×300 mL) and dried under vacuum to afford the desired compound (236.3 g, 91.3% yield) as a white solid. mp: 104-106° C.

reactant | 3-amino-3-cyclopropylpropanoic acid | 1.13 mol, 146 g | NC(CC(=O)O)C1CC1 | C6H11NO2
reactant | water | 300 mL | O | H2O
reactant | sodium hydroxide | 2.37 mol, 200 mL, 95 g | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | 1.24 mol, 271.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
product | 3-[(t-Butoxycarbonyl)amino]-3-cyclopropylpropanoic acid | 236.3 g, 91.3% yield | C(C)(C)(C)OC(=O)NC(CC(=O)O)C1CC1 | C11H19NO4
